US07642264B2
2-Chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (4.31 g, 13.4 mmol) and phosphoroxychloride (40 mL) according to the general procedure I. Obtained as a light yellow solid (4.47 g, 98%). MS (EI) 340.1 [(M)+]; Mp 53° C.

reactant | 4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 13.4 mmol, 4.31 g | CC=1C=C(C=CC1C(F)(F)F)C1=NC(NC(=C1)C(F)(F)F)=O | C13H8F6N2O
reactant | phosphoroxychloride | 40 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C(F)(F)F | C13H7ClF6N2
